US07122580B2
3-Biphenyl-4-yl-(2S)-[(5-bromo-pyridine-2-carbonyl)-amino]-propionic acid methyl ester (1.5 g, 90%) was prepared by following general procedure A from commercially available 5-bromo picolinic acid (0.9 g, 4.7 mmol) and (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester (1.0 g, 3.9 mmol).

reactant | 5-bromo picolinic acid | 4.7 mmol, 0.9 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | (2S)-amino-3-biphenyl-4-yl-propionic acid methyl ester | 3.9 mmol, 1.0 g | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O | C16H17NO2
product | 3-Biphenyl-4-yl-(2S)-[(5-bromo-pyridine-2-carbonyl)-amino]-propionic acid methyl ester | 1.5 g, 90% | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H19BrN2O3
